US05919943
Using the procedure described in Example 2, Part E, 418 mg (1 mmol) of [[3-(2-amino-1,2-dioxoethyl)1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester was hydrolyzed in 5 mnL of 1N NaOH and 15 mL of MeOH to give 268 mg (61% yield) of [[3-(2-amino-l,2-dioxoethyl)1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid, sodium salt, mp, >265° C.

reactant | [[3-(2-amino-1,2-dioxoethyl)1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 1 mmol, 418 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC(=CC=C1)Cl)CC)C(C(=O)N)=O)=O | C22H21ClN2O5
reactant | NaOH | 1N | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | MeOH | 15 mL | CO | CH4O
product | [[3-(2-amino-l,2-dioxoethyl)1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid | 268 mg, 61% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=CC(=CC=C1)Cl)CC)=O | C21H19ClN2O5
